US04722929
(a) 8-(2-Methoxy-4-benzyloxy-phenyl)-2-chloro-purine
Prepared analogously to Example 5 from 2-chloro-4,5-diaminopyrimidine and 2-methoxy-4-benzyloxy benzoic acid.

reactant | 2-chloro-4,5-diaminopyrimidine | ClC1=NC=C(C(=N1)N)N | C4H5ClN4
reactant | 2-methoxy-4-benzyloxy benzoic acid | COC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C15H14O4
product | 8-(2-Methoxy-4-benzyloxy-phenyl)-2-chloro-purine | COC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC2=NC(=NC=C2N1)Cl | C19H15ClN4O2
